US08012980B2
a) 6-Bromo-1-oxo-1,2-dihydroisoquinoline-4-sulfonyl chloride
A solution of 6-bromoisoquinolin-1(2H)-one (10 g) in chlorosulfuric acid (29.9 mL) was heated at 90° C. for 2 h. Chlorosulfuric acid (29.9 mL) was added, and the reaction mixture was poured onto ice (CAUTION). The resulting solid was filtered, washed with water, and dried in vacuo (25° C.) to give the subtitle compound as a beige solid (12.31 g).

reactant | 6-bromoisoquinolin-1(2H)-one | 10 g | BrC=1C=C2C=CNC(C2=CC1)=O | C9H6BrNO
reactant | chlorosulfuric acid | 29.9 mL | S(O)(=O)(=O)Cl | ClHO3S
reactant | Chlorosulfuric acid | 29.9 mL | S(O)(=O)(=O)Cl | ClHO3S
product | 6-Bromo-1-oxo-1,2-dihydroisoquinoline-4-sulfonyl chloride | 12.31 g | BrC=1C=C2C(=CNC(C2=CC1)=O)S(=O)(=O)Cl | C9H5BrClNO3S
